Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
gait and hand writing difficulties
 
Major Surgical or Invasive Procedure:
DBS stage 1 on ___ ___
 
___ of Present Illness:
This is a ___ year old female with known ___ disease who 
electively presented for Stage 1 deep Brain Stimilator with Dr 
___.
 
Past Medical History:
___ disease, osteoporosis, shingles, hysterectomy, vein 
stripping 
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
On the day of ___
The patient was alert and oriented to person, place, time
Strength and sensation were full
EOMs intact
pupils were equal and reactive bilaterally 4-3mm
No pronator drift noted. tremors Left > right
patient has difficulty with transfers off parkinsons medications

On the day of discharge ___
The patient was alert and oriented to person, place, time
Strength and sensation were full
EOMs intact
pupils were equal and reactive bilaterally 4-3mm
No pronator drift noted. tremors Left > right
Overall, her clinical status is unchanged
 
Pertinent Results:
Radiology Report MR HEAD W/O CONTRAST Study Date of ___ 
11:04 AM 
FINDINGS:  There is interval right-sided deep brain stimulator 
electrode 
placement.  The electrode is seen traversing from the vertex to 
the right 
basal ganglia.  There is no significant hemorrhage.  There is no 
evidence of 
acute infarct.  Major vascular flow voids are present.  A small 
amount of 
pneumocephalus is noted in the right frontal convexity, an 
expected 
post-procedure finding.  There is no shift of normally midline 
structures.  
There is mild mucosal thickening in the visualized paranasal 
sinuses.  The 
mastoid air cells are clear.  The globes are grossly 
unremarkable.   
  
IMPRESSION:  Interval placement of right-sided deep brain 
stimulator electrode 
to the right basal ganglia.  Expected post-procedure changes 
including a small 
amount of right-sided pneumocephalus but no evidence of 
infarction. 
  
SELLA TURCICA INTRAOP FLUOROSCOPY
 
FINDINGS: 
  
Intraoperative fluoroscopic image demonstrates a deep brain 
stimulator lead 
within the ___ the targeting device. 
  
TOTAL FLUOROSCOPIC TIME:  70.4 seconds. 
  
IMPRESSION: 
  
Intraoperative fluoroscopic imaging was provided for deep brain 
stimulator 
placement within the sella turcica.   

PRE-OP
Radiology Report MR HEAD W & W/O CONTRAST Study Date of ___ 
7:52 AM 

FINDINGS:  There is no mass, edema, or STIR abnormality.  There 
are no 
abnormal areas of enhancement.  The ventricles and sulci are 
unremarkable in size given the patient's age.  No abnormalities 
of the venous structures are apparent. 
IMPRESSION:  Unremarkable brain MRI. 

___ 08:33AM   estGFR-Using this
___ 08:33AM   CREAT-0.5
___ 12:45PM   ___ PTT-30.6 ___
___ 12:45PM   PLT COUNT-225
___ 12:45PM   WBC-4.5 RBC-3.99* HGB-12.5 HCT-38.9 MCV-98 
MCH-31.3 MCHC-32.0 RDW-13.2
___ 12:45PM   CALCIUM-9.0 PHOSPHATE-3.4 MAGNESIUM-1.8
___ 12:45PM   GLUCOSE-98 UREA N-14 CREAT-0.5 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
 
Brief Hospital Course:
This is a ___ year old female with history of Parkinsons disease 
that presents today for elective Stage 1 DBS.  The patient 
underwent the procedure well and there were no complications.  A 
immediate post operative MRI was performed and it was consistent 
with expected post operative findings.  The patient was 
restarted on her Parkinsons medications in the PACU and 
recovered from anesthesia.  She was initiated on a clear liquid 
diet and advanced as tolerated.  The patient was transferred to 
the floor after recovery from anesthesia in stable condidtion.

On POD day #1, pt was in stable condition on the floor. She was 
neurologically intact, with findings identical to pre-surgery 
(bilat hand tremors L > R, oriented x 3). Incision was 
clean/dry/intact, with dermabond on top. Post-op MRI showed only 
expected post-op changes. 

Transitional issues:
Pt will be contacted for stage II of DBS (battery placement) in 
2 weeks. Her staples will be removed at that time. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amantadine 100 mg PO BID 
2. Carbidopa-Levodopa (___) 0.25 TAB PO 7 TIMES A DAY 
3. Azilect *NF* (rasagiline) 1 mg Oral qd parkinsons 
4. Ropinirole 8 mg PO QAM 
requip XL extended release 24 HR 
5. Ropinirole 4 mg PO QPM 
requip XL extended release 24 hr 
6. teriparatide *NF* 20 mcg/dose - 600 mcg/2.4 mL Subcutaneous 
qweek 
not to be given while in hospital 

 
Discharge Medications:
1. Amantadine 100 mg PO BID 
2. Azilect *NF* (rasagiline) 1 mg Oral qd parkinsons 
3. Carbidopa-Levodopa (___) 0.25 TAB PO 7 TIMES A DAY 
4. Ropinirole 8 mg PO QAM 
requip XL extended release 24 HR 
5. Ropinirole 4 mg PO QPM 
requip XL extended release 24 hr 
6. teriparatide *NF* 20 mcg/dose - 600 mcg/2.4 mL Subcutaneous 
qweek 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Parkinsons Disease

 
Discharge Condition:
stable

 
Discharge Instructions:
Instructions for Follow up: Stage 1 Deep Brain Stimulator 
Placement

•Keep your incision closed with disolvable sutures covered by 
dermabond on the right side of your head. Keep your incision 
clean and dry. 
•Have a friend or family member check the wound for signs of 
infection such as redness or drainage daily. 
•Take your pain medicine as prescribed if needed. You do not 
need to take it if you do not have pain.
•Exercise should be limited to walking; no lifting >10lbs, 
straining, or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•DO not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, do not take this at all before 
your second Stage surgery.
•Do not drive before your second surgery.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___